US05861417
2.4.1 Synthesis of (S)-1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine
Combine (S)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine (R,R)-di-p-anisoyltartaric acid salt (0.14 g, 0.21 mmol) ethyl acetate (15 mL), acetonitrile (6 mL), water (6 mL), and sodium bicarbonate (0.09 g, 1.03 mmol). Cool to 0° C. in an salt-ice bath. Add 2-methoxy-5-(1H-tetrazol-1-yl)benzoyl chloride (0.21 mmol). After 30 minutes, warm to ambient temperature. After 30 minutes at ambient temperature, partition the reaction mixture between ethyl acetate and brine. Extract the organic layer with 1M hydrochloric acid solution, then saturated aqueous sodium bicarbonate solution. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give the title compound.

reactant | (S)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine (R,R)-di-p-anisoyltartaric acid salt | 0.21 mmol, 15 mL, 0.14 g | C(C1=CC=C(C=C1)OC)(=O)[C@@]([C@@](C(=O)O)(O)C(C1=CC=C(C=C1)OC)=O)(O)C(=O)O.ClC=1C=C(C=CC1Cl)[C@@]1(CNCC1)CCO
reactant | acetonitrile | 6 mL | C(C)#N | C2H3N
reactant | sodium bicarbonate | 1.03 mmol, 0.09 g | C([O-])(O)=O.[Na+]
reactant | 2-methoxy-5-(1H-tetrazol-1-yl)benzoyl chloride | 0.21 mmol | COC1=C(C(=O)Cl)C=C(C=C1)N1N=NN=C1 | C9H7ClN4O2
solvent | water | 6 mL | O | H2O
product | (S)-1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine | COC1=C(C(=O)N2C[C@@](CC2)(CCO)C2=CC(=C(C=C2)Cl)Cl)C=C(C=C1)N1N=NN=C1 | C21H21Cl2N5O3
